US04221915
To a solution of titanium tetrachloride in methylene chloride (1 molar concentration; 30 ml, 30 mmol), titanium tetraisopropoxide (4.26 g, 15 mmol) was added under an argon atmosphere with stirring and under water cooling. After 10 min., thiophene (2.52 g, 30 mmol) was added and then trichloroacetaldehyde (8.82 g, 60 mmol) was added dropwise during 10 min. with stirring and under ice-water cooling. After the addition was completed, stirring was continued for further 10 min., and then water and methylene chloride were added successively, and the organic layer was separated. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solution was filtered and, after removal of the solvent by distillation under a reduced pressure with an aspirator, the residue was distilled to form trichloroacetaldehyde isopropyl alcoholate initially and then 5.0 g of α-trichloromethyl-2-thiophenemethanol.

reactant | thiophene | 30 mmol, 2.52 g | S1C=CC=C1 | C4H4S
reactant | trichloroacetaldehyde | 60 mmol, 8.82 g | ClC(C=O)(Cl)Cl | C2HCl3O
reactant | water | O | H2O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium tetraisopropoxide | 15 mmol, 4.26 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mmol, 1 molar | C(Cl)Cl | CH2Cl2
product | trichloroacetaldehyde isopropyl alcoholate | C(C)(C)[O-].ClC(C=O)(Cl)Cl | InChI=1S/C3H7O.C2HCl3O/c1-3(2)4;3-2(4,5)1-6/h3H,1-2H3;1H/q-1;
